US05968908
To a stirred solution of 1-bromo-4-methoxy-2,3,6-trimethylbenzene in anhydrous tetrahydrofuran at -78° C. is added 1.7M tert-butyllithium in pentane, followed by the addition of zinc chloride, 0.5M in tetrahydrofuran. The mixture is allowed to warm to room temperature, tetrakis (triphenylphosphine) palladium(0) and ethyl 2-trifluoromethanesulfonyloxycyclohexen-1-ylcarboxylate in tetrahydrofuran is added and the resulting solution is stirred for 2 hours at the reflux temperature of the solvent. The reaction is cooled to room temperature, 50 ml of diethyl ether is added and the layers are separated. The organic layer is washed with water, aqueous sodium bicarbonate, saturated sodium chloride, and dried over sodium sulfate. Evaporation of the solution, followed by chromatography (silica gel: hexane/diethyl ether 4:1) gives 2-(4-methoxy-2,3,6-trimethylphenyl)-1-cyclohexene-1-carboxylic acid, ethyl ester.

reactant | 1-bromo-4-methoxy-2,3,6-trimethylbenzene | BrC1=C(C(=C(C=C1C)OC)C)C | C10H13BrO
reactant | tert-butyllithium | 1.7M | C(C)(C)(C)[Li]
reactant | ethyl 2-trifluoromethanesulfonyloxycyclohexen-1-ylcarboxylate | FC(S(=O)(=O)OC1=C(CCCC1)C(=O)OCC)(F)F | C10H13F3O5S
reactant | diethyl ether | 50 ml | C(C)OCC | C4H10O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | pentane | CCCCC | C5H12
catalyst | zinc chloride | [Cl-].[Zn+2].[Cl-]
catalyst | tetrakis (triphenylphosphine) palladium(0) | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 2-(4-methoxy-2,3,6-trimethylphenyl)-1-cyclohexene-1-carboxylic acid, ethyl ester | COC1=C(C(=C(C(=C1)C)C1=C(CCCC1)C(=O)OCC)C)C | C19H26O3
